US05646188
C. cis-N,N'-Diacetyl-1,3-diaminoindan (2717)
To a solution of 17.55 g of cis/trans-1,3-diaminoindan in 102 mL of pyridine was slowly added 102 mL of acetic anhydride. After 17 hrs the reaction mixture was added to 250 mL of water and 300 mL of methylene chloride. The insoluble precipitate was isolated from this three-phase mixture by filtration and dried to give 8.7 g of crude title compound which was recrystallized from ethanol to give 5.4 g pure material.

reactant | trans-1,3-diaminoindan | N[C@@H]1C[C@H](C2=CC=CC=C12)N | C9H12N2
reactant | acetic anhydride | 102 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 250 mL | O | H2O
reactant | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
reactant | pyridine | 102 mL | N1=CC=CC=C1 | C5H5N
product | cis-N,N'-Diacetyl-1,3-diaminoindan | 5.4 g | C(C)(=O)N[C@@H]1C[C@@H](C2=CC=CC=C12)NC(C)=O | C13H16N2O2
